US05399575
4-[2-(2-Pyridinyl)-ethenyl]-benzonitrile
A mixture of 20.4 g (0.2 mol) acetic acid anhydride, 18.6 g (0.2 mol) 2-methylpyridine and 26.2 g (0.2 mol) 4-cyanobenzaldehyde is heated to reflux for 24 h. One allows to cool, mixes with excess ether and filters. One isolates 18.8 g of title compound (46% of theory) of the m.p. 98°-98° C.

reactant | acetic acid anhydride | 0.2 mol, 20.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-methylpyridine | 0.2 mol, 18.6 g | CC1=NC=CC=C1 | C6H7N
reactant | 4-cyanobenzaldehyde | 0.2 mol, 26.2 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
solvent | ether | CCOCC | C4H10O
product | 4-[2-(2-Pyridinyl)-ethenyl]-benzonitrile | 18.8 g, 46% | N1=C(C=CC=C1)C=CC1=CC=C(C#N)C=C1 | C14H10N2
